US04752322
N-t-Butyl-2,3-dihydro-6-methoxymethyl-2-methylbenzo[b]thiophene-7-sulfonamide
To a solution of 7.14 g of N-t-butyl-2,3-dihydro-2-methylbenzo[b]thiophene-7-sulfonamide in 175 ml of dry tetrahydrofuran was added 34 ml of a 1.6M hexane solution of n-butyl lithium at -40° C. to -30° C. under an inert atmosphere. The mixture was allowed to warm and was stirred at room temperature for 30 minutes. It was recooled to -30° C. and was contacted with 2.2 ml of bromomethyl methyl ether. The mixture was allowed to come to room temperature overnight and was acidified with 10 ml of 6N hydrochloric acid. The organic layer was separated, was dried over magnesium sulfate, and was concentrated to give 7.4 g of the title compound as a brown oil.

reactant | N-t-butyl-2,3-dihydro-2-methylbenzo[b]thiophene-7-sulfonamide | 7.14 g | C(C)(C)(C)NS(=O)(=O)C1=CC=CC2=C1SC(C2)C | C13H19NO2S2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | bromomethyl methyl ether | 2.2 ml | COCBr | C2H5BrO
reactant | hydrochloric acid | 6N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6M | CCCCCC | C6H14
product | N-t-Butyl-2,3-dihydro-6-methoxymethyl-2-methylbenzo[b]thiophene-7-sulfonamide | 7.4 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC2=C1SC(C2)C)COC | C15H23NO3S2
